US05403816
1.5 g (5.2 mmol) of the obtained 6-acetylamino-3-benzyloxypicolinic acid and 1.0 g (7 mmol) of methyl iodide were dissolved in 100 ml of DMF, and 20 ml of an aqueous solution of 0.53 g (6.3 mmol) of sodium hydrogen carbonate was added thereto. The mixture was reacted at 60° C. for 3 hours. The reaction solution was poured into water and extracted with ethyl acetate. The extract was washed with water, dried and concentrated. The crystals thereby obtained was washed with diisopropyl ether to obtain methyl 6-acetylamino-3-benzyloxypicolinate.

reactant | 6-acetylamino-3-benzyloxypicolinic acid | 5.2 mmol, 1.5 g | C(C)(=O)NC1=CC=C(C(=N1)C(=O)O)OCC1=CC=CC=C1 | C15H14N2O4
reactant | methyl iodide | 7 mmol, 1.0 g | CI | CH3I
reactant | sodium hydrogen carbonate | 6.3 mmol, 0.53 g | C(O)([O-])=O.[Na+]
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | methyl 6-acetylamino-3-benzyloxypicolinate | yield: 90% | C(C)(=O)NC1=CC=C(C(=N1)C(=O)OC)OCC1=CC=CC=C1 | C16H16N2O4
